US06531478B2
To a solution of 1-(4-tolyl)-3-(4-aminophenyl)-5-aminopyrazole (0.6 g, 2.27 mmol) in THF (20 mL) and H2O (8 mL) at room temperature was added 4-methoxybenzenesulfonyl chloride (0.94 g, 4.55 mmol) and potassium carbonate (0.95 g, 6.88 mmol). The mixture was stirred at room temperature overnight and was then partitioned between H2O (20 mL) and EtOAc (100 mL). The layers were separated and the organic layer was dried over Na2SO4 and concentrated. The residue was purified by preparatory TLC, eluting with 2:1 hexanes/EtOAc to yield N-[4-5-amino-1-(4-methylphenyl)-1H-pyrazol-3-yl]phenyl]-4-methoxy benzenesulfonamide.

reactant | 1-(4-tolyl)-3-(4-aminophenyl)-5-aminopyrazole | 2.27 mmol, 0.6 g | C1(=CC=C(C=C1)N1N=C(C=C1N)C1=CC=C(C=C1)N)C | C16H16N4
reactant | 4-methoxybenzenesulfonyl chloride | 4.55 mmol, 0.94 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | potassium carbonate | 6.88 mmol, 0.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 8 mL | O | H2O
product | 4-methoxy benzenesulfonamide | COC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
